** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/RISE-A/opamp_r2r_audio/sasaki/opamp_r2r_ABAMP_sasaki.sch
.subckt opamp_r2r_ABAMP_sasaki AB_P CAP_P CAP_N AB_N VDD OUT VSS
*.PININFO VDD:B VSS:B OUT:O AB_P:I AB_N:I CAP_P:I CAP_N:I
MMDRVP OUT AB_P VDD VDD PMOS w=7.5u l=5u m=96
MMDRVN OUT AB_N VSS VSS NMOS w=7.5u l=5u m=48
XXCP2 CAP_P OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
XXCP1 CAP_P OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
XXCN2 CAP_N OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
XXCN1 CAP_N OUT VSS F_CSIO x=80.6u y=80.6u A=6.496n P=322.4u
.ends
